US08084483B2
Lithium hydroxide solution (1M aqueous, 0.757 mL, 0.757 mmol) was added to a solution of ethyl 2-(5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate (100 mg, 0.252 mmol) in THF (2 mL) and methanol (1 mL) and the mixture stirred at room temperature for 20 h. The crude reaction mixture was acidified with HCl (1N, 1 mL) and sonicated to break up the solids, which were then isolated by filtration to give 2-(5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoic acid as a white solid (69 mg, 74%).

reactant | Lithium hydroxide | 0.757 mmol, 1M, 0.757 mL | [OH-].[Li+]
reactant | ethyl 2-(5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate | 0.252 mmol, 100 mg | NC=1N(C(=NN1)SC(C(=O)OCC)(C)C)C1=CC=C(C2=CC=CC=C12)C1CC1 | C21H24N4O2S
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 2-(5-amino-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoic acid | 69 mg, 74% | NC=1N(C(=NN1)SC(C(=O)O)(C)C)C1=CC=C(C2=CC=CC=C12)C1CC1 | C19H20N4O2S
